US07541372B2
4-{4-[5-(5-Cyclopropyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-3-methoxy-phenyl}-morpholine
As described for example 26, 2-(4-fluoro-2-methoxy-phenyl)-5-(5-cyclopropyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazole (200 mg, 0.53 mmol) instead of 2-(4-fluoro-2-methoxy-phenyl)-5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazole was converted using morpholine instead of thiomorpholine to the title compound (SiO2, heptane:ethyl acetate:dichloromethane=60:20:20 to 0:80:20, 138 mg, 59%) which was obtained as a white solid. MS: m/e=445.3 [M+H]+.

reactant | 2-(4-fluoro-2-methoxy-phenyl)-5-(5-cyclopropyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazole | 0.53 mmol, 200 mg | FC1=CC(=C(C=C1)C=1OC(=NN1)C=1C(=NOC1C1CC1)C1=CC=CC=C1)OC | C21H16FN3O3
reactant | morpholine | N1CCOCC1 | C4H9NO
product | 4-{4-[5-(5-Cyclopropyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-3-methoxy-phenyl}-morpholine | 138 mg, 59% | C1(CC1)C1=C(C(=NO1)C1=CC=CC=C1)C1=NN=C(O1)C1=C(C=C(C=C1)N1CCOCC1)OC | C25H24N4O4
